US05002967
Ethyl 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]pentanoate
To a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (2.38 g, 0.01 mole) and ethyl 2-bromopentanoate (2.09 g, 0.01 mole) in acetone (100 ml) was added potassium hydroxide flakes (1.68 g, 0.03 mole) The mixture was stirred at room temperature for one hour and then concentrated in vacuo to an oil. The oil was added to water (50 ml) and extracted with diethyl ether, dried over sodium sulfate, filtered, and concentrated in vacuo to an oil. Chromatography on silica gel gave the title compound.

reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.01 mole, 2.38 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | ethyl 2-bromopentanoate | 0.01 mole, 2.09 g | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Ethyl 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]pentanoate | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C(=O)OCC)CCC | C21H34O3S
